US06498260B2
1) Synthesis of 4-vinylphenyl 2-(3-methyl-3-cyclohexenyl)-2-propyl carbonate
The resulting mixture above was used directly without treatment and the same reaction system was used continuously. The dropping funnel on the flask was charged of α-terpineol (7.7 g) and quinoline (6.5 g). The formed solution was added dropwise to the reaction system at room temperature over vigorous stirring. The mixture was stirred over night and a white salt gradually precipitated. The salt was separated and the organic phase was washed with 2 N HCl and water until all pyridine and quinoline were neutralized and washed out. The organic phase was separated, washed with sodium bicarbonate and sodium bisulfite solution, and then dried over anhydrous magnesium sulfate. The column chromatography of the products on silica gel with 10:1 hexane/ethyl acetate gave 32% yield of the product as a colorless viscous liquid. FT-IR (neat): 2925, 1757, 1508, 1446, 1376, 1264, 1214, 1157, 1123, 1018, 990, 903, 840, 809 cm−1. 1H NMR (CDCl3): δ7.40 (d, 2H, aromatic), 7.12 (d, 2H, aromatic), 6.69 (dd, 1H, ═CH, aromatic), 5.70 (dd, 1H, ═CH2), 5.38 (m, 1H, ═CH), 5.24 (dd, 1H, ═CH2), 2.19-1.83 (m, 6H, CH2), 1.66 (s, 3H, CH3) 1.54 (s, 3H, CH3), 1.51 (s, 3H, CH3), 1.44-1.25 (m, 1H, CH) ppm.

reactant | α-terpineol | 7.7 g | CC1=CC[C@H](CC1)C(C)(C)O | C10H18O
reactant | quinoline | 6.5 g | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 4-vinylphenyl 2-(3-methyl-3-cyclohexenyl)-2-propyl carbonate | 32% yield | C(OC1=CC=C(C=C1)C=C)(OC(C)(C)C1CC(=CCC1)C)=O | C19H24O3
